US09382222B2
Step 4: (4-(4-Acetyl-piperazin-1-yl)-N-isobutyl-N-(2-trifluoromethyl-benzyl)-benzenesulfonamide)
A solution of 4-(4-acetyl-piperazin-1-yl)-N-isobutyl-benzenesulfonamide (100 mg, 0.295 mmol) in DMA (2 mL) was treated with NaH (60% dispersion in mineral oil, 18 mg, 0.443 mmol) and stirred at room temperature for 30 minutes. 2-(Trifluoromethyl)benzyl bromide (141 mg, 0.590 mmol) was added and the mixture heated at 90° C. for 1 hour. The cooled mixture was diluted with EtOAc, washed with water and brine, dried over Na2SO4 and concentrated under vacuum. Purification by silica gel column chromatography (0-100% EtOAc in DCM) gave the title compound (110 mg, 75%). 1H NMR (400 MHz, DMSO) δ 7.81 (d, J=7.9 Hz, 1H), 7.69-7.71 (m, 4H), 7.50 (t, J=7.6 Hz, 1H), 7.08 (d, J=8.8 Hz, 2H), 4.36 (s, 2H), 3.59 (d, J=5.26 Hz, 4H), 3.38 (dd, J=26.2, 5.0 Hz, 4H), 2.86 (d, J=7.2 Hz, 2H), 2.05 (s, 3H), 1.36 (t, J=6.7 Hz, 1H), 0.70 (d, J=6.6 Hz, 6H). LCMS (m/z Method B) ES+ 498.1 [M+1]+.

reactant | 4-(4-acetyl-piperazin-1-yl)-N-isobutyl-benzenesulfonamide | 0.295 mmol, 100 mg | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)S(=O)(=O)NCC(C)C | C16H25N3O3S
reactant | NaH | 0.443 mmol, 18 mg | [H-].[Na+]
reactant | 2-(Trifluoromethyl)benzyl bromide | 0.590 mmol, 141 mg | FC(C1=C(CBr)C=CC=C1)(F)F | C8H6BrF3
solvent | DMA | 2 mL | CC(=O)N(C)C | C4H9NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 4-(4-Acetyl-piperazin-1-yl)-N-isobutyl-N-(2-trifluoromethyl-benzyl)-benzenesulfonamide | 110 mg, 75% | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)S(=O)(=O)N(CC1=C(C=CC=C1)C(F)(F)F)CC(C)C | C24H30F3N3O3S
